US07173136B2
Bis(Triphenyl-phosphine)palladium(II) chloride (144 mg), copper iodide (58 mg) and diisopropylamine (208 mg) were added to a stirred solution of (4-Iodo-7-amino-benzfuran) (266 mg) and methyl propargyll ether (144 mg) in ethyl acetate (5 mls) at −20° C. The reaction was allowed to warm to ambient temperature over 16 hours. The reaction mixture was partitioned between ethyl acetate and saturated NaHCO3. The organics were washed with saturated NaHCO3, water and saturated brine and dried over magnesium sulfate. The product was purified by column chromatography on silica using 100% dichloromethane as eluent. [4-(3-methoxyprop-1-ynyl)benzofuran-7-yl]amine was thus obtained as a yellow/brown gum (70 mg); NMR Spectrum: (DMSOd6) 3.34 (s, 3H), 4.34 (s, 2H), 5.74 (s, 2H), 6.50 (d, 1H), 6.80 (s, 1H), 7.05 (d, 1H), 7.96, s, 1H); Mass Spectrum: M+H+ mass ion not observed.

reactant | diisopropylamine | 208 mg | C(C)(C)NC(C)C | C6H15N
reactant | 4-Iodo-7-amino-benzfuran | IC1=CC=C(C2=C1C=CO2)N | C8H6INO
reactant | ethyl acetate | 5 mls | C(C)(=O)OCC | C4H8O2
catalyst | Bis(Triphenyl-phosphine)palladium(II) chloride | 144 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 58 mg | [Cu](I)I
product | [4-(3-methoxyprop-1-ynyl)benzofuran-7-yl]amine | COCC#CC1=CC=C(C2=C1C=CO2)N | C12H11NO2
